US09227985B2
tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperidine-1-carboxylate
(tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-3,6-dihydropyridine-1(2H)-carboxylate (80 mg, 0.2 mmol) was dissolved in methanol (6 mL), and the mixture was degassed with nitrogen for 15 min, followed by addition of palladium on carbon (30 mg, 0.02 mmol) [Aldrich, cat. #130108]. After three vacuum/nitrogen gas refilling cycles, 1 atm hydrogen gas was charged to the mixture with a balloon. After stirring for 2 h at room temperature, the reaction mixture was filtered through Celite and the filter was subsequently washed with methanol (30 mL). The combined organic layers were concentrated under reduced pressure. The residue was purified by flash chromatography eluting ethyl acetate in hexanes (75-100%) to afford the desired product (48 mg, 60%). LCMS for C29H34O4N5 (M+H)+: calculated m/z=516.3. found 516.2; 1H NMR (400 MHz, CD3OD) δ 8.59-8.49 (m, 1H), 7.73 (m, 1H), 7.36-7.28 (m, 2H), 7.06 (d, J=8.3 Hz, 1H), 6.78 (d, J=7.9 Hz, 1H), 6.00 (m, 1H), 4.89 (dd, J=11.7, 3.1 Hz, 1H), 4.60 (dd, J=11.6, 3.1 Hz, 1H), 4.16 (d, J=13.4 Hz, 1H), 4.04 (d, J=13.5 Hz, 1H), 2.95 (ddd, J=11.8, 8.3, 3.6 Hz, 1H), 2.88-2.51 (m, 2H), 2.25 (s, 3H), 2.11 (s, 3H), 2.06-1.94 (m, 1H), 1.92-1.66 (m, 2H), 1.44 (s, 9H).

reactant | tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-3,6-dihydropyridine-1(2H)-carboxylate | 0.2 mmol, 80 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C=2CCN(CC2)C(=O)OC(C)(C)C)C | C29H31N5O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 6 mL | CO | CH4O
catalyst | palladium on carbon | 0.02 mmol, 30 mg | [Pd] | Pd
product | tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperidine-1-carboxylate | 48 mg, 60% | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C2CCN(CC2)C(=O)OC(C)(C)C)C | C29H33N5O4
